US06525042B1
1-[(E)-4-Chlorostyrylsulfonyl]-4-[(thiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
In a similar manner to Example 4 except for the use of sodium thiazolo[5,4-c]pyridine-2-carboxylate and 1-[(E)-4-chlorostyrylsulfonyl)piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | sodium thiazolo[5,4-c]pyridine-2-carboxylate | N1=C(SC=2C=NC=CC21)C(=O)[O-].[Na+]
reactant | 1-[(E)-4-chlorostyrylsulfonyl)piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCNCC2)C=C1
product | 1-[(E)-4-Chlorostyrylsulfonyl]-4-[(thiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCN(CC2)C(=O)C=2SC=3C=NC=CC3N2)C=C1 | InChI=1S/C19H17ClN4O3S2.ClH/c20-15-3-1-14(2-4-15)6-12-29(26,27)24-10-8-23(9-11-24)19(25)18-22-16-5-7-21-13-17(16)28-18;/h1-7,12-13H,8-11H2;1H/b12-6+;
